US08809568B2
Synthesis of (Trimethylsilylethynyl)diisopropylsilane
In an oven-dried flask, trimethylsilylacetylene (7.02 g, 71.5 mmol) was dissolved in pentane (60 mL), and cooled to 0° C. in an ice bath. n-Butyllithium (26 mL, 2.5 M in hexanes, 65 mmol,) was added dropwise and the temperature was maintained for an hour. Diisopropylchlorosilane (10.0 g, 66.4 mmol) was added slowly, and the suspension was allowed to warm overnight. The reaction was quenched by the addition of water (60 mL) and stirred until all precipitate dissolved. The organic layer was separated, and the aqueous layer was extracted with pentane (40 mL). The organic layers were combined, washed with water (2×20 mL), and dried over magnesium sulfate. The resulting solution was rinsed onto a thin pad of silica and the product was eluted with additional pentane. Solvent was carefully removed from the volatile desired product using a rotary evaporator to yield 14 g (66 mmol, 99%) of a colorless liquid. 1H-NMR (400 MHz, CDCl3) δ=3.6 (s, 1H), 1.0 (m, 14H), 0.1 (s, 9H).

reactant | trimethylsilylacetylene | 71.5 mmol, 7.02 g | C[Si](C)(C)C#C | C5H10Si
reactant | n-Butyllithium | 65 mmol, 2.5 M, 26 mL | C(CCC)[Li]
reactant | Diisopropylchlorosilane | 66.4 mmol, 10.0 g | C(C)(C)[SiH](Cl)C(C)C | C6H15ClSi
solvent | pentane | 60 mL | CCCCC | C5H12
product | (Trimethylsilylethynyl)diisopropylsilane | 66 mmol, 14 g, 99% | C[Si](C)(C)C#C[SiH](C(C)C)C(C)C | C11H24Si2
